US09227951B2
To a solution of (S,E)-tert-butyl 2-((tert-butylsulfinylimino)methyl)thiazole-5-carboxylate (15 g, 47 mmol) in DCM (500 mL) at −70° C. was slowly added methylmagnesium bromide (63 mL, 3 M in ether). The mixture was stirred at −70° C. for 3 h then quenched with sat. NH4Cl solution. The solution was then warmed to rt. After separation, the aqueous phase was extracted with DCM (3×200 mL). Combined organic phases were dried (Na2SO4), and concentrated. Flash column chromatography (DCM: MeOH, 100:0 to 100:1) afforded tert-butyl 2-((R)-1-((S)-1,1-dimethylethylsulfinamido)ethyl)thiazole-5-carboxylate (10 g, 64%). 1H NMR (CDCl3, 400 MHz) δ 8.14 (s, 1H), 4.76 (m, 1H), 4.15 (m, 1H), 1.60 (d, J=6.8 Hz, 3H), 1.50 (s, 9H), 1.20 (s, 9H).

reactant | (S,E)-tert-butyl 2-((tert-butylsulfinylimino)methyl)thiazole-5-carboxylate | 47 mmol, 15 g | C(C)(C)(C)[S@](=O)\N=C\C=1SC(=CN1)C(=O)OC(C)(C)C | C13H20N2O3S2
reactant | methylmagnesium bromide | 3 M, 63 mL | C[Mg]Br
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-((R)-1-((S)-1,1-dimethylethylsulfinamido)ethyl)thiazole-5-carboxylate | 10 g, 64% | CC(C)([S@](=O)N[C@H](C)C=1SC(=CN1)C(=O)OC(C)(C)C)C | C14H24N2O3S2
